US05565479
373 mg of sodium hydride (60%) was added to 5 ml of dimethylformamide, and a solution of 1.0 g of 4-cyanomethylimidazole in 10 ml of dimethylformamide was added dropwise to the resulting suspension. After 1 hour of stirring at room temperature, to the solution was added 1.9 ml of (2-chloromethoxyethyl)trimethylsilane and stirred at room temperature for 2 hours. The reaction solution was mixed with water and chloroform, and the resulting organic layer was collected and dried over anhydrous sodium sulfate, followed by evaporation of the solvent. The residue was subjected to silica gel column chromatography eluted with hexane-ethyl acetate (1:1) to obtain 1.128 g of 4-cyanomethyl-1-trimethylsilylethoxymethylimidazole and 0.362 g of 5-cyanomethyl-1-trimethylsilylethoxymethylimidazole.

reactant | sodium hydride | 373 mg | [H-].[Na+]
reactant | 4-cyanomethylimidazole | 1.0 g | C(#N)CC=1N=CNC1 | C5H5N3
reactant | (2-chloromethoxyethyl)trimethylsilane | 1.9 ml | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | O | H2O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-cyanomethyl-1-trimethylsilylethoxymethylimidazole | 0.362 g | C(#N)CC1=CN=C(N1)COC(C)[Si](C)(C)C | C11H19N3OSi
